US05599930
Methyl 6-(2-(2-methoxyethoxy)ethoxy)indole-2-carboxylate
Following the general procedure of EXAMPLE 3, and making non-critical variations but substituting 4-(2-(2-methoxyethoxy)ethoxy)-α-azidocinnamate (PREPARATION 79) for 4-[(2-(2-hydroxyethoxy)ethoxy)ethoxyl-α-azidocinnamate, the title compound is obtained, NMR (300 MHz, CD3OD) 7.59, 7.20, 7.02, 6.87, 4.25, 4.00, 3.96, 3.80, 3.67 and 3.47.

reactant | 4-(2-(2-methoxyethoxy)ethoxy)-α-azidocinnamate | COCCOCCOC1=CC=C(C=C(C(=O)[O-])N=[N+]=[N-])C=C1
reactant | (2-(2-hydroxyethoxy)ethoxy)ethoxyl-α-azidocinnamate | OCCOCCOCCOC(=C(C(=O)[O-])N=[N+]=[N-])C1=CC=CC=C1
product | Methyl 6-(2-(2-methoxyethoxy)ethoxy)indole-2-carboxylate | COCCOCCOC1=CC=C2C=C(NC2=C1)C(=O)OC | C15H19NO5
